US09290468B2
Step 9: 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)-N-(2-(vinyloxy)ethoxy)benzo[d][1,2,3]thiadiazole-6-carboxamide
To a solution of 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylic acid (200 mg, 0.46 mmol) in CH2Cl2 (10 mL) was added HOBt (100 mg, 0.74 mmol) and EDCI (132 mg, 0.74 mmol). The mixture was stirred for 1 h and O-(2-(vinyloxy)ethyl)hydroxylamine (76 mg, 0.74 mmol) was added. After stirring for 4 h at ambient temperature, the reaction was treated with saturated NH4Cl (aq.). The resultant mixture was extracted with CH2Cl2 (15 mL×3). The combined organic extracts were washed with water (10 mL) and brine (10 mL), dried over Na2SO4 filtered, and concentrated in vacuo. The crude product (191 mg) was used directly in the next step without further purification.

reactant | 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylic acid | 0.46 mmol, 200 mg | FC1=C(C(=CC2=C1N=NS2)C(=O)O)NC2=C(C=C(C=C2)Br)Cl | C13H6BrClFN3O2S
reactant | HOBt | 0.74 mmol, 100 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.74 mmol, 132 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | O-(2-(vinyloxy)ethyl)hydroxylamine | 0.74 mmol, 76 mg | C(=C)OCCON | C4H9NO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)-N-(2-(vinyloxy)ethoxy)benzo[d][1,2,3]thiadiazole-6-carboxamide | FC1=C(C(=CC2=C1N=NS2)C(=O)NOCCOC=C)NC2=C(C=C(C=C2)Br)Cl | C17H13BrClFN4O3S
